US09334286B2
1-(4-(3-((2-Methoxy-4-(2-methyl-1-(piperidin-4-ylmethyl)-1H-imidazol-5-yl)phenyl)amino)-isoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol
A suspension of 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol (Preparation 22, 15 mg, 0.050 mmol), tert-butyl 4-((5-(4-amino-3-methoxyphenyl)-2-methyl-1H-imidazol-1-yl)methyl)piperidine-1-carboxylate (Preparation 79, 19.9 mg, 0.050 mmol), xantphos (17.3 mg, 0.030 mmol), Pd2(dba)3 (4.6 mg, 0.005 mmol) and Cs2CO3 (130 mg, 0.398 mmol) in toluene/DMF (3/1 mL) was stirred at 160° C. under microwave irradiation for 2 hours. The reaction mixture was filtered, diluted with NaCl solution and extracted with EtOAc. The organic solution was purified by elution through an SCX-2 column using 2M NH3/MeOH followed by preparative HPLC. The residue was dissolved in DCM (6 mL) and cooled to 0° C. TFA (0.2 mL) was added and the reaction stirred at room temperature for 16 hours. The reaction was concentrated in vacuo and purified by elution through an SCX-2 column using 2M NH3/MeOH followed by preparative HPLC to afford the title compound as a yellow oil (2.5 mg, 59%).

reactant | 1-(4-(3-chloroisoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 0.050 mmol, 15 mg | ClC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(C)(O)C | C16H16ClN3O
reactant | tert-butyl 4-((5-(4-amino-3-methoxyphenyl)-2-methyl-1H-imidazol-1-yl)methyl)piperidine-1-carboxylate | 0.050 mmol, 19.9 mg | NC1=C(C=C(C=C1)C1=CN=C(N1CC1CCN(CC1)C(=O)OC(C)(C)C)C)OC | C22H32N4O3
reactant | xantphos | 0.030 mmol, 17.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.398 mmol, 130 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene DMF | 1 mL | C1(=CC=CC=C1)C.CN(C)C=O
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-(3-((2-Methoxy-4-(2-methyl-1-(piperidin-4-ylmethyl)-1H-imidazol-5-yl)phenyl)amino)-isoquinolin-6-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 2.5 mg, 59% | COC1=C(C=CC(=C1)C1=CN=C(N1CC1CCNCC1)C)NC=1N=CC2=CC=C(C=C2C1)C=1C=NN(C1)CC(C)(O)C | C33H39N7O2
